2116-03-21 08:28:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP, sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2116-3-20**] 05:34 PM
   of f l aline and r triple lumen
   - 2/2 blood cultures positive for GNR's (not yet speciated)
   - Norepinephrine weaned, off at about 17:00, received 1 L NS for
   hypotension (MAP of 50-60) in context of CVP decreased to 8, briefly
   responded but then required another liter bolus, considered tx but
   MVO2>70, persistently hypotensive with MAP's in 50's so restarted on
   norepinephrine
   - Surgery and GI recommended continuing supportive care
   Patient unable to provide history: Sedated
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-21**] 02:00 AM
   Vancomycin - [**2116-3-21**] 07:56 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-3-20**] 09:00 PM
   Morphine Sulfate - [**2116-3-21**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-21**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 59 (55 - 68) bpm
   BP: 114/54(76) {90/38(57) - 131/72(89)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 10 (8 - 15)mmHg
   CO/CI (Fick): (9.2 L/min) / (4.9 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  6,390 mL
                                                                    712 mL
   PO:
   TF:
   IVF:
                                                                  6,180 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                  2,707 mL
                                                                    312 mL
   Urine:
                                                                  2,707 mL
                                                                    312 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,683 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/29/102/19/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered, occasional)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Tender:
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   70 K/uL
   9.8 g/dL
   79 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   15 mg/dL
   119 mEq/L
   140 mEq/L
   30.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2116-3-19**]  11:10 PM
                             [**2116-3-20**]  03:22 AM
                             [**2116-3-20**]  04:12 AM
                             [**2116-3-20**]  12:39 PM
                             [**2116-3-20**]  01:04 PM
                             [**2116-3-20**]  04:55 PM
                             [**2116-3-20**]  09:25 PM
                             [**2116-3-20**]  09:47 PM
                             [**2116-3-21**]  04:10 AM
                             [**2116-3-21**]  06:08 AM
   WBC
   5.5
   5.9
   3.1
   4.1
   Hct
   34.9
   33.8
   27.9
   30.9
   Plt
   67
   72
   53
   70
   Cr
   1.1
   1.0
   1.1
   1.1
   TCO2
   19
   21
   20
   20
   21
   17
   Glucose
   89
   86
   81
   79
   Other labs: PT / PTT / INR:16.8/26.8/1.5, ALT / AST:126/43, Alk Phos /
   T Bili:318/5.2, Amylase / Lipase:17/12, Differential-Neuts:67.0 %,
   Band:13.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:170 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 y/o woman with history of breast Ca and cerebral aneuysym admitted
   to the ICU with cholangitis, septic shock, and respiratory failure
    # Septic Shock: source cholangitis, ERCP with pus drainage. Hopefully
   she will do well. Continues to demonstrate septic physiology with
   pressor requirment.
   - mixed venous 02
   - titrate CVP to 12 w/fluid bolus
   - wean levophed as tolerated with CVP ~12
   - Vanc/Zosyn
   - Aline, CVL
   # Respiratory Failure: likely secondary to metabolic acidosis and
   inability to compensate. Interestingly, however, is her elevated
   bicarbonate which could be from a higher level at baseline or from a
   contraction alkalosis.  Currently intubated on Assist control 500 x 14
   w/5 peep and oxygenating well on 60%.
   - wean Fi02 to 40%
   - check ABgs to see if pH treding toward normal.  Would not
   overventilate as I suspect her pCO2 is somewhat elevated given her age
   and elevated bicarbonates in the past (~30). Maintain current minute
   ventilation and monitor PH. Woudl expect as sepsis resolves her pH
   trends towards normal.
   - If pH normal then could change to pressure support and begin weanign
   process. Do not expect her to be intuabed long as her lungs were ok
   prior to admission
   # Cholangitis: Vanco / Zosyn as above. No large stones seen.
   - plans per ERCP
   - NPO for now
   - stent removal in future
    # Hypertension:  hold antihypertensives
    # Breast Cancer: not active issue, outpatient follow up
    # Cerebral Aneurysm: care with pressors, keep MAP ~60, 65 not higher
    # Depression: continue antidepressents
   # Hypercholesterolemia: hold statin for now, restart when LFTs trendign
   toward normal
    # Access: Rihgt IJ, Aline, also 2 PIVs
   # FEN: NPO
   # PPx: famotidine, heparin SQ
   # Dispo; ICU
   # CODE: FULL
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   18 Gauge - [**2116-3-19**] 05:53 PM
   Arterial Line - [**2116-3-19**] 06:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2116-03-21 11:22:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Cholangitis
   respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2116-3-20**] 05:34 PM
   of f l aline and r triple lumen
   -2 liters overnight for hypotension and despite this Levophed
   restarted.
   History obtained from Medical records
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-21**] 07:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-21**] 10:03 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-3-20**] 09:00 PM
   Morphine Sulfate - [**2116-3-21**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2116-3-21**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 60 (55 - 68) bpm
   BP: 94/50(68) {90/38(57) - 131/72(89)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (8 - 15)mmHg
   CO/CI (Fick): (9.2 L/min) / (4.9 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
                                Total In:
                                                                  6,390 mL
                                                                    897 mL
   PO:
                                TF:
   IVF:
                                                                  6,180 mL
                                                                    852 mL
   Blood products:
   Total out:
                                                                  2,707 mL
                                                                    417 mL
   Urine:
                                                                  2,707 mL
                                                                    417 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,683 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/29/102/19/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   Diffuse
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   70 K/uL
   79 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   15 mg/dL
   119 mEq/L
   140 mEq/L
   30.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2116-3-19**]  11:10 PM
                             [**2116-3-20**]  03:22 AM
                             [**2116-3-20**]  04:12 AM
                             [**2116-3-20**]  12:39 PM
                             [**2116-3-20**]  01:04 PM
                             [**2116-3-20**]  04:55 PM
                             [**2116-3-20**]  09:25 PM
                             [**2116-3-20**]  09:47 PM
                             [**2116-3-21**]  04:10 AM
                             [**2116-3-21**]  06:08 AM
   WBC
   5.5
   5.9
   3.1
   4.1
   Hct
   34.9
   33.8
   27.9
   30.9
   Plt
   67
   72
   53
   70
   Cr
   1.1
   1.0
   1.1
   1.1
   TCO2
   19
   21
   20
   20
   21
   17
   Glucose
   89
   86
   81
   79
   Other labs: PT / PTT / INR:16.8/26.8/1.5, ALT / AST:126/43, Alk Phos /
   T Bili:318/5.2, Amylase / Lipase:17/12, Differential-Neuts:67.0 %,
   Band:13.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:170 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.3 mg/dL
   Imaging: CVL, ETT, OGT in good position, persistent LLL opacity--no
   change
   Assessment and Plan
   82 yo female admit with cholangitis and now s/p ERCP.  She had
   significant sepsis and with stent relieving obstruction rapid wean of
   pressors was performed.  Now she has had return to pressor requirement
   despite optimized volume status--this is in the absence of significant
   fever but with persistent bandemia.
   1)Respiratory Failure
Patient with intubationin the setting of sepsis
   and cholangitis.  She has had substantial improvement in her
   oxygenation and ventilation with good preservation of aeration on CXR-
   -Will move to PSV today
   -Will trial RSBI and 1 hour SBT prior to extubation to consider
   possible successful extubation today
   -If mental status and CVP/fluid status favorable will move to
   extubation
   2) SHOCK, SEPTIC
   -Vanco/Zosyn
   -Move to diuresis today as tolerated today
   ICU Care
   Nutrition: NPO given possible extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   18 Gauge - [**2116-3-19**] 05:53 PM
   Arterial Line - [**2116-3-19**] 06:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2116-03-21 17:02:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP, sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2116-3-20**] 05:34 PM
   of f l aline and r triple lumen
   - 2/2 blood cultures positive for GNR's (not yet speciated)
   - Norepinephrine weaned, off at about 17:00, received 1 L NS for
   hypotension (MAP of 50-60) in context of CVP decreased to 8, briefly
   responded but then required another liter bolus, considered tx but
   MVO2>70, persistently hypotensive with MAP's in 50's so restarted on
   norepinephrine
   - Surgery and GI recommended continuing supportive care
   Patient unable to provide history: Sedated
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-21**] 02:00 AM
   Vancomycin - [**2116-3-21**] 07:56 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2116-3-20**] 09:00 PM
   Morphine Sulfate - [**2116-3-21**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-21**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 59 (55 - 68) bpm
   BP: 114/54(76) {90/38(57) - 131/72(89)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 10 (8 - 15)mmHg
   CO/CI (Fick): (9.2 L/min) / (4.9 L/min/m2)
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  6,390 mL
                                                                    712 mL
   PO:
   TF:
   IVF:
                                                                  6,180 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                  2,707 mL
                                                                    312 mL
   Urine:
                                                                  2,707 mL
                                                                    312 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,683 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/29/102/19/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered, occasional)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, Tender:
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   70 K/uL
   9.8 g/dL
   79 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   15 mg/dL
   119 mEq/L
   140 mEq/L
   30.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2116-3-19**]  11:10 PM
                             [**2116-3-20**]  03:22 AM
                             [**2116-3-20**]  04:12 AM
                             [**2116-3-20**]  12:39 PM
                             [**2116-3-20**]  01:04 PM
                             [**2116-3-20**]  04:55 PM
                             [**2116-3-20**]  09:25 PM
                             [**2116-3-20**]  09:47 PM
                             [**2116-3-21**]  04:10 AM
                             [**2116-3-21**]  06:08 AM
   WBC
   5.5
   5.9
   3.1
   4.1
   Hct
   34.9
   33.8
   27.9
   30.9
   Plt
   67
   72
   53
   70
   Cr
   1.1
   1.0
   1.1
   1.1
   TCO2
   19
   21
   20
   20
   21
   17
   Glucose
   89
   86
   81
   79
   Other labs: PT / PTT / INR:16.8/26.8/1.5, ALT / AST:126/43, Alk Phos /
   T Bili:318/5.2, Amylase / Lipase:17/12, Differential-Neuts:67.0 %,
   Band:13.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:170 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 y/o woman with history of breast Ca and cerebral aneuysym admitted
   to the ICU with cholangitis, septic shock, and respiratory failure
    # Septic Shock: source cholangitis, ERCP with pus drainage. Continues
   to demonstrate septic physiology with pressor requirment. Levo weaned
   overnight but had to be increased again this afternoon. CVP
   consistently ~10 today and pt looks edematous. Think has enough fluid
   on board at this time.
   -  wean levophed as tolerated to MAP >65
   - Vanc/Zosyn
   - Aline, CVL
   # Respiratory Failure: likely secondary to metabolic acidosis and
   inability to compensate. Originally, Bicarb was elevated but has since
   declined to 19. Pt needs to hyperventilate approx 10% to compensate for
   this. While trying to wean to PS today, pt unable to do this, unable to
   maintain 7.5L minute ventilation as ABGs showed pH dropped and pt was
   put back on a/c
   - rest on a/c overnight. Trial of PS again tomorrow while monitoring
   ABG to check if pt able to maintain nl pH by adequate respiratory
   alkalosis in compensation for metabolic acidosis.
   # Cholangitis: Vanco / Zosyn as above. No large stones seen.
   - NPO for now
   - stent removal in future
   -f/u ERCP recs.
    # Hypertension:  hold antihypertensives
    # Breast Cancer: not active issue, outpatient follow up
    # Cerebral Aneurysm: care with pressors, keep MAP ~60, 65 not higher
    # Depression: continue antidepressents
   # Hypercholesterolemia: hold statin for now, restart when LFTs trendign
   toward normal
    # Access: Right IJ, Aline, also 2 PIVs
   # FEN: NPO
   # PPx: PPI, heparin SQ
   # Dispo; ICU
   # CODE: FULL
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   18 Gauge - [**2116-3-19**] 05:53 PM
   Arterial Line - [**2116-3-19**] 06:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2116-03-22 07:33:00 Physician Resident Progress Note
Chief Complaint: 82 y/o woman with history of breast Ca and cerebral
   aneuysym admitted to the ICU with cholangitis, septic shock, and
   respiratory failure
   24 Hour Events:
   [**2116-3-20**]:
   - 2/2 blood cultures positive for GNR's (not yet speciated)
   - Norepinephrine weaned, off at about 17:00, received 1 L NS for
   hypotension (MAP of 50-60) in context of CVP decreased to 8, briefly
   responded but then required another liter bolus, considered tx but
   MVO2>70, persistently hypotensive with MAP's in 50's so restarted on
   norepinephrine
   - Surgery and GI recommended continuing supportive care
   ______________________________________________________
   [**2116-3-21**]
   - Trial of [**Name (NI) 5622**] pt CO2 progressively rose and pH dropped with Minute
   Ventilation. ? if sedation interfering with resp drive. Expect to d/c
   sedation in am and retry PS for possible extubation tomorrow
   -Tried to wean levo but still requires between 0.01 and 0.02. Weaned
   off this a.m.
   - Blood cultures from [**3-19**] growing pan-sensitive GNR.
   -d/c omeprazole- now on IV Famotidine only
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-21**] 07:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-22**] 04:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 75 (59 - 75) bpm
   BP: 111/62(83) {92/34(58) - 119/76(91)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  1,524 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  1,479 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  1,152 mL
                                                                    320 mL
   Urine:
                                                                  1,152 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    372 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 446 (446 - 562) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 42.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/42/94.[**Numeric Identifier 126**]//-5
   Ve: 8.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   9.8 g/dL
   79 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   15 mg/dL
   119 mEq/L
   140 mEq/L
   30.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2116-3-20**]  04:12 AM
                             [**2116-3-20**]  12:39 PM
                             [**2116-3-20**]  01:04 PM
                             [**2116-3-20**]  04:55 PM
                             [**2116-3-20**]  09:25 PM
                             [**2116-3-20**]  09:47 PM
                             [**2116-3-21**]  04:10 AM
                             [**2116-3-21**]  06:08 AM
                             [**2116-3-21**]  12:28 PM
                             [**2116-3-21**]  04:36 PM
   WBC
   5.9
   3.1
   4.1
   Hct
   33.8
   27.9
   30.9
   Plt
   72
   53
   70
   Cr
   1.0
   1.1
   1.1
   TCO2
   21
   20
   20
   21
   17
   21
   21
   Glucose
   86
   81
   79
   Other labs: PT / PTT / INR:16.8/26.8/1.5, ALT / AST:107/30, Alk Phos /
   T Bili:344/4.7, Amylase / Lipase:17/12, Differential-Neuts:67.0 %,
   Band:13.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:144 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   82 y/o woman with history of breast Ca and cerebral aneuysym admitted
   to the ICU with cholangitis, septic shock, and respiratory failure
    # Septic Shock: source cholangitis, ERCP with pus drainage. Continues
   to demonstrate septic physiology with pressor requirment. Levo weaned
   overnight but had to be increased again this afternoon. CVP
   consistently ~10 today and pt looks edematous. Think has enough fluid
   on board at this time.
   -  wean levophed as tolerated to MAP >65
   - Vanc/Zosyn
   - Aline, CVL
   # Respiratory Failure: likely secondary to metabolic acidosis and
   inability to compensate. Originally, Bicarb was elevated but has since
   declined to 19. Pt needs to hyperventilate approx 10% to compensate for
   this. While trying to wean to PS today, pt unable to do this, unable to
   maintain 7.5L minute ventilation as ABGs showed pH dropped and pt was
   put back on a/c
   - rest on a/c overnight. Trial of PS again tomorrow while monitoring
   ABG to check if pt able to maintain nl pH by adequate respiratory
   alkalosis in compensation for metabolic acidosis.
   # Cholangitis: Vanco / Zosyn as above. No large stones seen.
   - NPO for now
   - stent removal in future
   -f/u ERCP recs.
    # Hypertension:  hold antihypertensives
    # Breast Cancer: not active issue, outpatient follow up
    # Cerebral Aneurysm: care with pressors, keep MAP ~60, 65 not higher
    # Depression: continue antidepressents
   # Hypercholesterolemia: hold statin for now, restart when LFTs trendign
   toward normal
    # Access: Right IJ, Aline, also 2 PIVs
   # FEN: NPO
   # PPx: PPI, heparin SQ, pneumoboots
   # Dispo; ICU
   # CODE: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   18 Gauge - [**2116-3-19**] 05:53 PM
   Arterial Line - [**2116-3-19**] 06:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-03-22 09:35:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with PSV wean across yesterday to minimal settings--A/C
   required with decreased drive and sedatin lightened this mornign
   -Norepinephrine weaned to off
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-22**] 04:00 AM
   Vancomycin - [**2116-3-22**] 08:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2116-3-22**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 69 (59 - 75) bpm
   BP: 171/67(107) {92/34(58) - 171/76(107)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 13 (2 - 13)mmHg
   Total In:
                                                                  1,524 mL
                                                                    579 mL
   PO:
   TF:
   IVF:
                                                                  1,479 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  1,152 mL
                                                                    580 mL
   Urine:
                                                                  1,152 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    372 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 471 (446 - 562) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 42.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/41/89.[**Numeric Identifier 126**]//-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   70 K/uL
   79 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   15 mg/dL
   119 mEq/L
   140 mEq/L
   30.9 %
   4.1 K/uL
         [image002.jpg]
                             [**2116-3-20**]  12:39 PM
                             [**2116-3-20**]  01:04 PM
                             [**2116-3-20**]  04:55 PM
                             [**2116-3-20**]  09:25 PM
                             [**2116-3-20**]  09:47 PM
                             [**2116-3-21**]  04:10 AM
                             [**2116-3-21**]  06:08 AM
                             [**2116-3-21**]  12:28 PM
                             [**2116-3-21**]  04:36 PM
                             [**2116-3-22**]  08:25 AM
   WBC
   5.9
   3.1
   4.1
   Hct
   33.8
   27.9
   30.9
   Plt
   72
   53
   70
   Cr
   1.0
   1.1
   1.1
   TCO2
   20
   20
   21
   17
   21
   21
   22
   Glucose
   86
   81
   79
   Other labs: PT / PTT / INR:16.8/26.8/1.5, ALT / AST:107/30, Alk Phos /
   T Bili:344/4.7, Amylase / Lipase:17/12, Differential-Neuts:67.0 %,
   Band:13.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:144 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: 7.32/41/89
   Microbiology: GNR's with pan-sensitive
   Assessment and Plan
   82 yo female admit with biliary obstruction and ascending cholangitis
   and now with excellent stability of blood pressure following Rx with
   decompression and drainage.  She has been able to wean off pressors and
   maintained stable BP through to this morning.  In addition, patient has
   had excellent tolerance of minimal ventilatory settings across the
   night and with sedation weaned to off patient with excellent mental
   status, able to follow commands and with minimal secretions.
   RESPIRATORY FAILURE
Patient with initial intubation with altered mental
   status with sepsis and now has excellent alertness, sepsis (GNR
   improved, Ve requirement <10 and able to follow commands clearly and
   with CVP <10 has excellent control of volume status.
   -Extubation today given favorable RSBI, improvement in reasons for
   intubation
   -Check cuff leak prior to extubation
   -OOB to chair
   -Incentive spirometry
 SHOCK, SEPTIC
   -Vanco/Zosyn
   -IVF as needed
   -Continue to follow culture results
   ICU Care
   Nutrition: npo this morning
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   18 Gauge - [**2116-3-19**] 05:53 PM
   Arterial Line - [**2116-3-19**] 06:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2116-03-23 07:51:00 Physician Resident Progress Note
Chief Complaint: Cholangitis/sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2116-3-22**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2116-3-22**] 09:30 AM
 ARTERIAL LINE - STOP [**2116-3-22**] 10:52 AM
 EKG - At [**2116-3-22**] 11:00 AM
   -Extubated and did well. Had some hypercapnia (worst ABG 7.28/50/94)
   but did well afterward with improvement in pH to 7.34/46/83 by 7pm.
   -Did not get PICC b/c waiting for blood cx to be neg x 72hrs
   -Had runs of narrow complex tach, rhythm was re-entrant vs
   a.fib/flutter.  Also had runs of bradycardia with a few 2 second pauses
   around 1 a.m.  Started on po metoprolol for tachyarryhthmia but
   continued without improvement so needed metoprolol 5mg iv three
   seperate times.
   -Vanc d/c'd in a.m. but had GPC in chains in [**3-19**] bcx so restarted
   overnight
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-22**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-22**] 10:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2116-3-22**] 11:15 AM
   Metoprolol - [**2116-3-22**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Wheeze
   Flowsheet Data as of  [**2116-3-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 73 (66 - 134) bpm
   BP: 124/62(79) {96/31(31) - 153/6,461(104)} mmHg
   RR: 19 (15 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 11 (3 - 20)mmHg
   Total In:
                                                                    875 mL
                                                                    128 mL
   PO:
   TF:
   IVF:
                                                                    875 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  4,535 mL
                                                                    530 mL
   Urine:
                                                                  4,535 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,660 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (471 - 471) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 55
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.34/51/175/27/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : )
   Abdominal: Soft, Bowel sounds present, Tender:
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   126 K/uL
   9.9 g/dL
   83 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.2 mEq/L
   15 mg/dL
   107 mEq/L
   143 mEq/L
   31.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2116-3-21**]  12:28 PM
                             [**2116-3-21**]  04:36 PM
                             [**2116-3-22**]  08:25 AM
                             [**2116-3-22**]  11:15 AM
                             [**2116-3-22**]  11:39 AM
                             [**2116-3-22**]  02:42 PM
                             [**2116-3-22**]  06:01 PM
                             [**2116-3-22**]  06:11 PM
                             [**2116-3-23**]  04:40 AM
                             [**2116-3-23**]  07:20 AM
   WBC
   7.1
   5.8
   Hct
   34.0
   31.5
   Plt
   113
   126
   Cr
   1.0
   0.9
   TCO2
   21
   21
   22
   24
   27
   26
   26
   29
   Glucose
   85
   83
   Other labs: PT / PTT / INR:15.2/24.5/1.3, ALT / AST:75/27, Alk Phos / T
   Bili:350/3.0, Amylase / Lipase:17/12, Differential-Neuts:67.0 %,
   Band:13.0 %, Lymph:10.0 %, Mono:7.0 %, Eos:3.0 %, Lactic Acid:0.9
   mmol/L, Albumin:2.7 g/dL, LDH:158 IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SHOCK, SEPTIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   82 y/o woman with history of breast Ca and cerebral aneuysym admitted
   to the ICU with cholangitis, septic shock, and respiratory failure
    # Septic Shock: source cholangitis, ERCP with pus drainage. Continues
   to demonstrate septic physiology with pressor requirment. Levo weaned
   overnight but had to be increased again this afternoon. CVP
   consistently ~10 today and pt looks edematous. Think has enough fluid
   on board at this time.
   -  wean levophed as tolerated to MAP >65
   - Vanc/Zosyn
   - Aline, CVL
   # Respiratory Failure: likely secondary to metabolic acidosis and
   inability to compensate. Originally, Bicarb was elevated but has since
   declined to 19. Pt needs to hyperventilate approx 10% to compensate for
   this. While trying to wean to PS today, pt unable to do this, unable to
   maintain 7.5L minute ventilation as ABGs showed pH dropped and pt was
   put back on a/c
   - rest on a/c overnight. Trial of PS again tomorrow while monitoring
   ABG to check if pt able to maintain nl pH by adequate respiratory
   alkalosis in compensation for metabolic acidosis.
   # Cholangitis: Vanco / Zosyn as above. No large stones seen.
   - NPO for now
   - stent removal in future
   -f/u ERCP recs.
    # Hypertension:  hold antihypertensives
    # Breast Cancer: not active issue, outpatient follow up
    # Cerebral Aneurysm: care with pressors, keep MAP ~60, 65 not higher
    # Depression: continue antidepressents
   # Hypercholesterolemia: hold statin for now, restart when LFTs trendign
   toward normal
    # Access: Right IJ, Aline, also 2 PIVs
   # FEN: NPO
   # PPx: PPI, heparin SQ
   # Dispo; ICU
   # CODE: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-03-24 07:18:00 Physician Resident Progress Note
Chief Complaint: 82 y/o woman with history of lung Ca and cerebral
   aneuysym admitted to the ICU with cholangitis, septic shock, and
   respiratory failure
   24 Hour Events:
   [**2116-3-23**]
   -Quiet day, maintained on shovel mask O2 (nasal cannula 3L this a.m.)
   and mainly had concerns regarding some minor intermittent confusion,
   presumed post infectious
   -Attempted nurse [**First Name (Titles) 5674**] [**Last Name (Titles) **] and weren't able to place so ordered for
   IR placed
   -Blood Cx finally positive for two isolates of E. Coli (relatively
   sensitive) and one bottle with Strep angionosus (usually pen
   sensitive).  Nothing positive since ED blood cx.
   -Agitation at night and received haldol w/ good effect.
   Allergies:
   Meperidine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Lightheadedness
   Codeine
   Constipation;
   Last dose of Antibiotics:
   Vancomycin - [**2116-3-22**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2116-3-24**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2116-3-23**] 12:00 PM
   Famotidine (Pepcid) - [**2116-3-23**] 08:00 PM
   Haloperidol (Haldol) - [**2116-3-24**] 03:52 AM
   Heparin Sodium (Prophylaxis) - [**2116-3-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-3-24**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 62 (60 - 75) bpm
   BP: 113/47(62) {90/44(59) - 154/74(86)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 7 (7 - 9)mmHg
   Total In:
                                                                    798 mL
                                                                    185 mL
   PO:
   TF:
   IVF:
                                                                    798 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                    580 mL
   Urine:
                                                                  2,570 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,772 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.43/50/64/33/7
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   10.2 g/dL
   84 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.3 mEq/L
   13 mg/dL
   101 mEq/L
   140 mEq/L
   31.9 %
   6.5 K/uL
        [image002.jpg]
                             [**2116-3-22**]  08:33 AM
                             [**2116-3-22**]  11:15 AM
                             [**2116-3-22**]  11:39 AM
                             [**2116-3-22**]  02:42 PM
                             [**2116-3-22**]  06:01 PM
                             [**2116-3-22**]  06:11 PM
                             [**2116-3-23**]  04:40 AM
                             [**2116-3-23**]  07:20 AM
                             [**2116-3-24**]  02:45 AM
                             [**2116-3-24**]  06:48 AM
   WBC
   5.6
   7.1
   5.8
   6.5
   Hct
   35.0
   34.0
   31.5
   31.9
   Plt
   89
   113
   126
   169
   Cr
   1.1
   1.0
   0.9
   0.9
   TCO2
   24
   27
   26
   26
   29
   34
   Glucose
   23
   85
   83
   84
   Other labs: PT / PTT / INR:15.2/24.5/1.3, ALT / AST:75/27, Alk Phos / T
   Bili:350/3.0, Amylase / Lipase:17/12, Differential-Neuts:73.0 %,
   Band:0.0 %, Lymph:18.0 %, Mono:8.0 %, Eos:1.0 %, Lactic Acid:0.9
   mmol/L, Albumin:2.7 g/dL, LDH:158 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   82 y/o woman with history of lung Ca and cerebral aneuysym admitted to
   the ICU with cholangitis, septic shock, and respiratory failure
   # Septic Shock:  Patient admitted with hypotension and 2 GNR isolates
   as well as GPC
s in blood cultures.  The presumed source of this
   infection was her cholangitis and she is s/p ERCP and drainage of pus.
   Follow-up blood cultures remain negative and she has been successfully
   weaned off pressors.
   - Pipercillin/tazobactam
   -Vancomycin for GPC
   - Will d/c CVL after peripheral access established
   # Respiratory Failure: Patient
s ventilation and oxygenation are stable
   since extubation though she does have some persistent hypercapnea.  Her
   respiratory failure was presumed due to volume overload in the setting
   of aggressive fluid resuscitation.   Currently this seems to be
   improved.
   -supplementary O2 PRN
   -low index of suspicion to repeat ABG for mental status changes
   # Cholangitis: Vanco / Zosyn as above. system has been decompressed but
   will need repeat ERCP after recovery to remove large stone.
   -stent removal in future
   -f/u ERCP reccs.
   -monitor serial abdominal exams
    # Hypertension:  hold antihypertensives except BB for the moment until
   longer w/o hypotension
    # Lung Cancer: not active issue, outpatient follow up
    # Cerebral Aneurysm: low tolerance for hypertension
   # Depression: continue antidepressents
   # Hypercholesterolemia: hold statin for now, restart when LFTs trendign
   toward normal
    # Access: Right IJ, Aline, also 2 PIVs
   # FEN: NPO
   # PPx: PPI, heparin SQ
   # Dispo; ICU
   # CODE: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-3-19**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: